US05859007
Malonyl dichloride (1.48 mL) in THF (50 mL) is added dropwise over 35 min to a 0° C. solution of N-Isopropyl-N-(3-methoxy-phenyl)-2-(2-phenylamino-phenylamino) acetamide, prepared as in Part C, (5.45 g, 14.1 mmol) in THF (140 mL) and the resultant mixture allowed to attain RT overnight. The solvents were removed in vacuo and the residue diluted with ethyl acetate (100 mL) and washed with saturated aqueous sodium hydrogen carbonate (100 mL), water (100 mL), brine (100 mL), dried (MgSO4), and concentrated in vacuo. The resulting oil is purified by silica gel flash column chromatography using 3% methanol in methylene chlorideas eluent to afford 2-(-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(3-methoxy-phenyl) acetamide (2.4 g) as an amber foam: 1H NMR (300 MHz, CDCl3) δ7.3-7.1 (m, 10H), 7.02 (t, 1H, J=7.2), 6.92 (dd 1H, J=8.6,2.4), 6.83 (d, 1H, J=7.2), 4.95 (m, 1H, J=6.8), 4.38 (m, 1H), 4.02 (m, 1H), 3.78 (s, 3H), 3.48 (dd, 2H, J=39.3, 11.9), 1.06 (m, 6H).

reactant | Malonyl dichloride | 1.48 mL | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | N-Isopropyl-N-(3-methoxy-phenyl)-2-(2-phenylamino-phenylamino) acetamide | C(C)(C)N(C(CNC1=C(C=CC=C1)NC1=CC=CC=C1)=O)C1=CC(=CC=C1)OC | C24H27N3O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 140 mL | C1CCOC1 | C4H8O
product | 2-(-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(3-methoxy-phenyl) acetamide | 2.4 g | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC(=CC=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H27N3O4
